US07842685B2
Trimethylsilylmethylmagnesium chloride (1.1M solution in THF; 1.12 mL, 1.23 mmol) was added to a solution of (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)(cyclobutyl)methanone (327.0 mg, 0.821 mmol) in THF (15 mL) at 25° C., and the resulting solution was stirred at 25° C. for 5 min. Excess Grignard reagent was quenched by the careful addition of sat. aq. NH4Cl (5 mL), water was added to dissolve precipitated salts, and THF was then removed in vacuo. The resulting solution was partitioned between EtOAc (100 mL) and sat. aq. NH4Cl (20 mL), and the organic layer was separated and washed with brine. The organic layer was then dried over sodium sulfate, filtered, and concentrated in vacuo to provide 1-(2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-cyclobutyl-2-(trimethylsilyl)ethanol as a yellow oil. MS (ESI) m/z: Calculated: 486.2; Observed: 487.1 (M++1).

reactant | Trimethylsilylmethylmagnesium chloride | 1.23 mmol, 1.1M, 1.12 mL | C[Si](C)(C)C[Mg]Cl
reactant | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)(cyclobutyl)methanone | 0.821 mmol, 327.0 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=O)C1CCC1)F | C21H19FN2O3S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-cyclobutyl-2-(trimethylsilyl)ethanol | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(C[Si](C)(C)C)(O)C1CCC1)F | C25H31FN2O3SSi
